US07211668B2
1-(5-Methyl-1,3,4-thiadiazole-2-sulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one
The title compound was synthesized by the reaction of 4-(5-methyl-1,3,4-thiadiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt with (thymin-1-yl)-acetic acid as per the procedure of method B described in example 64,

reactant | 4-(5-methyl-1,3,4-thiadiazole-2-sulfonyl)-piperazin-2-one trifluoroacetic acid salt | FC(C(=O)O)(F)F.CC1=NN=C(S1)S(=O)(=O)N1CC(NCC1)=O
reactant | (thymin-1-yl)-acetic acid | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
product | 1-(5-Methyl-1,3,4-thiadiazole-2-sulfonyl)-4-[(thymin-1-yl)-acetyl]-piperazin-2-one | CC1=NN=C(S1)S(=O)(=O)N1C(CN(CC1)C(CN1C(=O)NC(=O)C(C)=C1)=O)=O | C14H16N6O6S2
